US08242153B2
A suspension of (RS)-5-(2,2-dimethyl-3-phenyl-propyl)-imidazolidine-2,4-dione (2.04 g) in 4 N NaOH was heated under an argon atmosphere to 120° C. (oil bath temperature). After 30 min strong foaming was observed. More 4 N NaOH (20 ml) was added. The suspension was heated to 120° C. for 2 days, turning into a clear solution. The mixture was cooled to r.t. and the insoluble material was filtered off. The filtrate was cooled in an ice bath and concentrated HCl was carefully added until pH˜6 was reached. The solid that had precipitated out was collected by filtration, washed with plenty of H2O and with Et2O, and dried to give (RS)-2-amino-4,4-dimethyl-5-phenyl-pentanoic acid (5.39 g, product contains large amount of salt) as white solid which was used in the next step without further purification.

reactant | (RS)-5-(2,2-dimethyl-3-phenyl-propyl)-imidazolidine-2,4-dione | 2.04 g | CC(CC1C(NC(N1)=O)=O)(CC1=CC=CC=C1)C | C14H18N2O2
reactant | NaOH | 4 N | [OH-].[Na+]
reactant | NaOH | 4 N, 20 ml | [OH-].[Na+]
product | (RS)-2-amino-4,4-dimethyl-5-phenyl-pentanoic acid | 5.39 g | NC(C(=O)O)CC(CC1=CC=CC=C1)(C)C | C13H19NO2
